US07022690B2
Step C. 2-Allyl-3-(4-methoxy-benzenesulfonylamino)-succinic acid 1-benzyl ester 4-tert-butyl ester
100 ml dry Tetrahydrofuran (THF) are cooled to −78° C. 1M THF-solution of Lithium bis(trimethylsilyl)amide (47.35 ml, 47.35 mmol) are added while the temperature is maintained. 2-(4-Methoxy-benzenesulfonylamino)-succinic acid 4-benzyl ester 1-tert-butyl ester (10.1 g, 22.5 mmol) are dissolved in 45 ml THF and added dropwise to the reaction solution. The reaction mixture is allowed to stir for 1 h and then warmed briefly to −40° C. After re-cooling to −78° C. Allyliodide (3.1 ml, 33.8 mmol) dissolved in 30 ml THF are added drop-wise. The reaction mixture is allowed to warm to −40° C. and is quenched with a NH4Cl-solution. The organic phase is separated dried over MgSO4 and filtered. The solvent is evaporated and the product is purified with a short flash-chromatography column. Hexane/Ethylacetate (9:1): Cal. 489.6 Found. (M)+ 490.

reactant | Lithium bis(trimethylsilyl)amide | 47.35 mmol, 47.35 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-(4-Methoxy-benzenesulfonylamino)-succinic acid 4-benzyl ester 1-tert-butyl ester | 22.5 mmol, 10.1 g | C(C)(C)(C)OC(C(CC(=O)OCC1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)OC)=O | C22H27NO7S
reactant | Allyliodide | 33.8 mmol, 3.1 ml | C(C=C)I | C3H5I
solvent | THF | 45 ml | O1CCCC1 | C4H8O
solvent | THF | 30 ml | O1CCCC1 | C4H8O
solvent | THF | 1M | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-Allyl-3-(4-methoxy-benzenesulfonylamino)-succinic acid 1-benzyl ester 4-tert-butyl ester | C(C)(C)(C)OC(C(C(C(=O)OCC1=CC=CC=C1)CC=C)NS(=O)(=O)C1=CC=C(C=C1)OC)=O | C25H31NO7S
